US08124606B2
Compound 126A: 3,4-difluoro-N-ethylbenzamide:
Using ethanamine hydrochloride and 3,4-difluorobenzoic acid in the general procedure for coupling of amines to carboxylic acids, the title compound was obtained (56% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.12 (t, J=7.20 Hz, 3H) 3.28 (qd, J=7.24, 5.56 Hz, 2H) 7.55 (dt, J=10.48, 8.40 Hz, 1H) 7.73 (m, J=7.33, 4.74, 2.08, 1.14, 1.14 Hz, 1H) 7.88 (ddd, J=11.75, 7.83, 2.15 Hz, 1H) 8.58 (t, J=4.93 Hz, 1H). ESI-MS: m/z 186.1 (M+H)−. mp=94.1-96.2° C.

reactant | ethanamine hydrochloride | Cl.C(C)N
reactant | 3,4-difluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
product | 3,4-difluoro-N-ethylbenzamide | 56% yield | FC=1C=C(C(=O)NCC)C=CC1F | C9H9F2NO
